US08420632B2
0.6 ml (4 mmol) of triethylamine and then 0.3 ml (4 mmol) of methanesulfonyl chloride are added to a solution of 1.6 g (4 mmol) of dimethyl 2-[(4-but-2-ynyloxybenzenesulfonylamino)methyl]-2-piperazin-1-ylmalonate diluted in 30 ml of dichloromethane. The reaction medium is then stirred at ambient temperature for 3 h and then evaporated to dryness. The crude residue is purified by chromatography on silica gel, elution being carried out with a 99/1 dichloromethane/methanol mixture. 1.1 g (58%) of dimethyl 2-[(4-but-2-ynyloxybenzenesulfonylamino)methyl]-2-(4-methanesulfonylpiperazin-1-yl)malonate are obtained in the form of a white solid.

reactant | triethylamine | 4 mmol, 0.6 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4 mmol, 0.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethyl 2-[(4-but-2-ynyloxybenzenesulfonylamino)methyl]-2-piperazin-1-ylmalonate | 4 mmol, 1.6 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NCC(C(=O)OC)(C(=O)OC)N1CCNCC1 | C20H27N3O7S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | dimethyl 2-[(4-but-2-ynyloxybenzenesulfonylamino)methyl]-2-(4-methanesulfonylpiperazin-1-yl)malonate | 1.1 g, 58% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)NCC(C(=O)OC)(C(=O)OC)N1CCN(CC1)S(=O)(=O)C | C21H29N3O9S2
